US09447039B2
Step 1: Preparation of Intermediate (1R,E)-N-(2-Methylcyclohexylidene)-1-phenylethanamine (I-8a)
A stirred solution of 2-methylcyclohexanone (5 g, 44.64 mmol) and (R)-1-phenylethanamine (5.4 g, 44.64 mmol) in toluene (50 mL) was maintained at 140-145° C. for 24 h. The solvent was removed under reduced pressure to afford 8 g (84%) of a diastereomeric mixture of (1R,E)-N-(2-methylcyclohexylidene)-1-phenylethanamine (I-8a) as a pale yellow oil.

reactant | 2-methylcyclohexanone | 44.64 mmol, 5 g | CC1C(CCCC1)=O | C7H12O
reactant | (R)-1-phenylethanamine | 44.64 mmol, 5.4 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (1R,E)-N-(2-Methylcyclohexylidene)-1-phenylethanamine | 8 g, 84% | CC1\C(\CCCC1)=N\[C@H](C)C1=CC=CC=C1 | C15H21N
